US05273982
DL-2-phenyl-β-alanine was reacted with di-t-butyl dicarbonate in t-butanol and sodium hydroxide solution to give DL-N-(t-butoxycarbonyl)-2-phenyl-β-alanine, m.p. 147°-148° C.

reactant | 2-phenyl-β-alanine | C1(=CC=CC=C1)C(CN)C(=O)O | C9H11NO2
reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | t-butanol | C(C)(C)(C)O | C4H10O
solvent | sodium hydroxide | [OH-].[Na+]
product | N-(t-butoxycarbonyl)-2-phenyl-β-alanine | C(C)(C)(C)OC(=O)NCC(C(=O)O)C1=CC=CC=C1 | C14H19NO4
